US05959107
According to the method in Example 10, 5-isoquinolinethiol 1.00 g (6.2 mmol), DMF 30 ml, potassium carbonate 1.60 g (11.6 mmol) and 3-chloro-4-fluorobenzonitrile 0.90 g (5.8 mmol) were stirred at 100° C. for 30 minutes, and 3-chloro-4-(5-isoquinolylsulfanyl)benzonitrile 1.55 g (90.3%) was obtained.

reactant | 5-isoquinolinethiol | 6.2 mmol, 1.00 g | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | potassium carbonate | 11.6 mmol, 1.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-4-fluorobenzonitrile | 5.8 mmol, 0.90 g | ClC=1C=C(C#N)C=CC1F | C7H3ClFN
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-chloro-4-(5-isoquinolylsulfanyl)benzonitrile | 1.55 g, 90.3% | ClC=1C=C(C#N)C=CC1SC1=C2C=CN=CC2=CC=C1 | C16H9ClN2S
